US09062015B2
FS107: 4-[6-(8,8-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
The preparation is carried out analogously to FS 102 starting from 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (US 2005/176722) and 2-(8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)Br | C14H20BrN3O2
reactant | 2-(8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | CC1(CCCC=2C=CC(=CC12)B1OC(C(O1)(C)C)(C)C)C | C18H27BO2
product | 4-[6-(8,8-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)C1=CC=2C(CCCC2C=C1)(C)C | C26H35N3O2
